US04474754
3.50 Grams of Z-Leu-Pro-Gln-NHNHBoc was dissolved in 50 ml of methanol and was catalytically reduced by using palladium as the catalyst to obtain H-Leu-Pro-Gln-NHNHBoc.

reactant | Z-Leu-Pro-Gln-NHNHBoc | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C29H44N6O8
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Leu-Pro-Gln-NHNHBoc | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1 | C21H38N6O6
